US07700628B2
B. 4-Fluoro-2-(3-tert-butoxycarbonylaminopropoxy)benzoic acid
Using a procedure analogous to Example 21-D, 4-fluoro-2-(3-tert-butoxy-carbonylaminopropoxy)benzoic acid was prepared from methyl 4-fluoro-2-(3-tert-butoxycarbonylaminopropoxy)benzoate.

reactant | 4-fluoro-2-(3-tert-butoxy-carbonylaminopropoxy)benzoic acid | FC1=CC(=C(C(=O)O)C=C1)OCCC(OC(C)(C)C)N=C=O | C15H18FNO5
reactant | methyl 4-fluoro-2-(3-tert-butoxycarbonylaminopropoxy)benzoate | FC1=CC(=C(C(=O)OC)C=C1)OCCCNC(=O)OC(C)(C)C | C16H22FNO5
product | 4-Fluoro-2-(3-tert-butoxycarbonylaminopropoxy)benzoic acid | FC1=CC(=C(C(=O)O)C=C1)OCCCNC(=O)OC(C)(C)C | C15H20FNO5
